US08975254B2
(S)-2-bromo-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-propan-2-yl)thiazole-4-carboxamide was prepared using the method of Example 34(d) starting from 2-bromo-1,3-thiazole-4-carboxylic acid (0.909 g, 4.37 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile (1 g, 3.64 mmol). The product was purified by Flash-chromatography. Yield 45.0%. 1H-NMR (400 MHz; CDCl3): δ 1.25 (d, 3H), 2.61 (s, 3H), 4.29 (dd, 1H), 4.45 (dd, 1H), 4.60 (m, 1H), 6.46 (d, 1H), 7.51 (d, 1H), 7.57 (dd, 1H), 7.61 (dd, 1H), 7.98 (d, 1H), 8.04 (s, 1H).

reactant | 2-bromo-1,3-thiazole-4-carboxylic acid | 4.37 mmol, 0.909 g | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | 3.64 mmol, 1 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)C | C14H15ClN4
product | (S)-2-bromo-N-(1-(3-(3-chloro-4-cyano-2-methylphenyl)-1H-pyrazol-1-yl)-propan-2-yl)thiazole-4-carboxamide | Yield 45.0% | BrC=1SC=C(N1)C(=O)N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)C)C | C18H15BrClN5OS
